US04215135
6,9-Dimethoxy-1H-phenanthro[9,10-d]imidazole
A solution of 4,5-bis(4-methoxyphenyl)imidazole in absolute ethanol[3.5 gms (0.0125 mole) in 800 ml absolute ethanol, 140 mg iodine as catalyst] was photolysed using a 450 watt Havovia lamp, and a Vycor filter for four hours.

reactant | 4,5-bis(4-methoxyphenyl)imidazole | COC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)OC | C17H16N2O2
reactant | ethanol | 0.0125 mole, 800 ml, 3.5 gms | C(C)O | C2H6O
product | 6,9-Dimethoxy-1H-phenanthro[9,10-d]imidazole | COC=1C=CC2=C(C1)C1=CC(=CC=C1C=1NC=NC12)OC | C17H14N2O2
